US07741347B2
TBDMS-Cl (48 mg, 0.312 mmol) followed by imidazole (28.8 mg, 0.423 mmol) were added to a CH2Cl2 (3 ml) solution of (2S,3S)-benzyl 4-hydroxy-3-methyl-2-(9-phenyl-9H-fluoren-9-ylamino)butanoate (119.5 mg, 0.258 mmol), and the mixture was stirred at ambient condition for 14.25 hr. The reaction mixture was then diluted with CH2Cl2 (30 mL) and washed with water (15 mL), and the organic layer was dried (MgSO4), filtered, and concentrated in vacuo. The resultant crude material was purified with a Biotage (40 g silica gel; 5% EtOAc/hexanes) to afford (2S,3S)-benzyl 4-(tert-butyldimethylsilyloxy)-3-methyl-2-(9-phenyl-9H-fluoren-9-ylamino)butanoate, contaminated with TBDMS based impurities, as a colorless viscous oil (124.4 mg). (2S,3R)-benzyl 4-hydroxy-3-methyl-2-(9-phenyl-9H-fluoren-9-ylamino)butanoate was elaborated similarly to (2S,3R)-benzyl 4-(tert-butyldimethylsilyloxy)-3-methyl-2-(9-phenyl-9H-fluoren-9-ylamino)butanoate. (2S,3S)-silyl ether isomer: 1H NMR (DMSO-d6, δ=2.5 ppm, 400 MHz), 7.82 (d, J=4.1, 1H), 7.80 (d, J=4.0, 1H), 7.38-7.07 (m, 16H), 4.70 (d, J=12.4, 1H), 4.42 (d, J=12.3, 1H), 3.28-3.19 (m, 3H), 2.56 (dd, J=10.1, 5.5, 1H), 1.61 (m, 1H), 0.90 (d, J=6.8, 3H), 0.70 (s, 9H), −0.13 (s, 3H), −0.16 (s, 3H). LC (Cond. 1, where the run time was extended to 4 min): RT=3.26 min; LC/MS: Anal. Calcd. for [M+H]+ C37H44NO3Si: 578.31. found 578.40. (2S,3R)-silyl ether isomer: 1H NMR (DMSO-d6, δ=2.5 ppm, 400 MHz), 7.82 (d, J=3.0, 1H), 7.80 (d, J=3.1, 1H), 7.39-7.10 (m, 16H), 4.66 (d, J=12.4, 1H), 4.39 (d, J=12.4, 1H), 3.61 (dd, J=9.9, 5.6, 1H), 3.45 (d, J=9.5, 1H), 3.41 (dd, J=10, 6.2, 1H), 2.55 (dd, J=9.5, 7.3, 1H), 1.74 (m, 1H), 0.77 (s, 9H), 0.61 (d, J=7.1, 3H), −0.06 (s, 3H), −0.08 (s, 3H).

reactant | TBDMS-Cl | 0.312 mmol, 48 mg | CC(C)(C)[Si](C)(C)Cl | C6H15ClSi
reactant | imidazole | 0.423 mmol, 28.8 mg | N1C=NC=C1 | C3H4N2
reactant | (2S,3S)-benzyl 4-hydroxy-3-methyl-2-(9-phenyl-9H-fluoren-9-ylamino)butanoate | 0.258 mmol, 119.5 mg | OC[C@H]([C@@H](C(=O)OCC1=CC=CC=C1)NC1(C2=CC=CC=C2C=2C=CC=CC12)C1=CC=CC=C1)C | C31H29NO3
solvent | CH2Cl2 | 30 mL | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 3 ml | C(Cl)Cl | CH2Cl2
product | (2S,3S)-benzyl 4-(tert-butyldimethylsilyloxy)-3-methyl-2-(9-phenyl-9H-fluoren-9-ylamino)butanoate | [Si](C)(C)(C(C)(C)C)OC[C@H]([C@@H](C(=O)OCC1=CC=CC=C1)NC1(C2=CC=CC=C2C=2C=CC=CC12)C1=CC=CC=C1)C | C37H43NO3Si
